US04405622
33.0 g of the salt: 1-(1,4-benzodioxan-2-ylmethyl)piperazine.2 HCl was converted to the free base form by treating with aqueous NaOH. The free base was extracted into methylene chloride and the extract dried over Na2SO4. Evaporation of the solvent yielded 24.4 g of 1-(1,4-benzodioxan-2-yl)piperazine.

reactant | 1-(1,4-benzodioxan-2-ylmethyl)piperazine | O1C(COC2=C1C=CC=C2)CN2CCNCC2 | C13H18N2O2
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
product | 1-(1,4-benzodioxan-2-yl)piperazine | 24.4 g | O1C(COC2=C1C=CC=C2)N2CCNCC2 | C12H16N2O2
